US06576645B1
b) 2-(2-Chlorophenyl)-1-[4-(2-piperidinylethoxy)phenyl]ethanone
The mixture of 1-[4-(2-chloroethoxy)phenyl]-2-(2-chlorophenyl)ethanone (4 g, 13 mmol) and piperidine (5.8 g, 68 mmol) in 80% aqueous acetone (50 ml) is refluxed for 12 h. Additional portions of 0.3 g of piperidine are added three times in 4 h intervals to the mixture. The solvents are evaporated. Diethyl ether is added and the precipitated piperidine hydrochloride is filtered off. Diethyl ether is evaporated and the residual product is purified by flash chromatography (eluent toluenetriethylamine 9:1). The yield is 4.1 g, 89%.

reactant | 1-[4-(2-chloroethoxy)phenyl]-2-(2-chlorophenyl)ethanone | 13 mmol, 4 g | ClCCOC1=CC=C(C=C1)C(CC1=C(C=CC=C1)Cl)=O | C16H14Cl2O2
reactant | piperidine | 68 mmol, 5.8 g | N1CCCCC1 | C5H11N
reactant | piperidine | 0.3 g | N1CCCCC1 | C5H11N
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-(2-Chlorophenyl)-1-[4-(2-piperidinylethoxy)phenyl]ethanone | ClC1=C(C=CC=C1)CC(=O)C1=CC=C(C=C1)OCCN1CCCCC1 | C21H24ClNO2
